US06946554B2
Methyl 3-(N,N′-bis-carbomethoxyguanidinyl)-4-(3-thienylmethyl)-1H-pyrrole-2-carboxylate
Methyl 3-amino-4-(3-thienylmethyl)-1H-pyrrole-2-carboxylate, obtained from Example 14 (11.8 g, 0.05 mol), N,N′-bis-carbomethoxy-S-methylisothiourea (11.3 g, 0.055 mol) and triethylamine were stirred together in dimethyl formamide (100 mL) and cooled to 5° C. Mercuric chloride (14.9 g, 0.055 mol) was added and an immediate precipitate was observed. The mixture was stirred at room temperature overnight.

reactant | Methyl 3-amino-4-(3-thienylmethyl)-1H-pyrrole-2-carboxylate | NC1=C(NC=C1CC1=CSC=C1)C(=O)OC | C11H12N2O2S
reactant | N,N′-bis-carbomethoxy-S-methylisothiourea | 0.055 mol, 11.3 g | C(=O)(OC)NC(SC)=NC(=O)OC | C6H10N2O4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethyl formamide | 100 mL | CN(C=O)C | C3H7NO
product | Methyl 3-(N,N′-bis-carbomethoxyguanidinyl)-4-(3-thienylmethyl)-1H-pyrrole-2-carboxylate | C(=O)(OC)N(C(=N)NC(=O)OC)C1=C(NC=C1CC1=CSC=C1)C(=O)OC | C16H18N4O6S
